US09303020B2
Preparation of 1-chloro-2-fluoro-3-iodo-4-methoxybenzene.
Charged Tetrahydrofuran (8.35 L) into a 3-L four-neck flask equipped with a mechanical stirrer, an addition funnel and a temperature probe under N2 atmosphere. Charged 4-Chloro-3-fluoroanisole (1000 g) to a 3-L four-neck flask equipped with a mechanical stirrer, an addition funnel and a temperature probe. Cooled the reaction mass to −60° C. to −70° C. Added n-Butyl Lithium in hexanes (30%, 1.42 kg) in to reaction mass through canula under nitrogen atmosphere slowly, while maintaining the temperature of the reaction mass below −60° C. Maintained the reaction at below −60° C. for 2 h. Meanwhile Iodine solution prepared by dissolving Iodine (2.405 kg) in Tetrahydrofuran (2.4 L) at 25-28° C. Transferred the Iodine solution in step #6 into a clean addition funnel with THF (500 mL) rinse. Added Iodine solution from the addition funnel to the reaction over 120 min while maintaining the internal temperature at <−60° C. Removed cooling bath and allowed to attain −5° C. to 0° C. Submitted the IPC sample when it reaches −5° C. to 0° C.1. A sample was removed at −2 h and checked by HPLC-97.06 AP; Int-01-0.59 AP. Work Up: Quenched the reaction with 20% Na2SO2O3 solution (1.015 kg of sodium thiosulphate dissolved in 5.1 L of DM water) while maintaining the internal temperature at <10° C. Allowed RM to warm to RT. Transfer resulting biphasic mixture into separating funnel, rinse the flask with THF (1.2 L; 1.0-1.5 Vol wrt Int-1), and transfer to separating flask. Removed and retain bottom aqueous phase for further extraction. Concentrated the organic layer. Dissolved concentrated mass in EtOAc (8.0 L; 8.0-8.5 Vol wrt Int-1) Extract the retained aqueous phase with EtOAc (7.1 L: 7.0-7.5 Vol wrt Int-1). Combined all organic phases, Rinse the flask with EtOAc (1.0 L; 1.0-1.5 Vol wrt Int-1). Washed organic phases with DM water (5.7 L; 5.0-6.0 Vol wrt Int-1). Concentrated the organic layer2 on rotovap at 45-50° C. completely. Purification: Added Acetonitrile (5.1 L; 5.0-5.5 vol wrt Int-01). Warmed to 55° C. to dissolve all solid. Rotate the above mass in rotavapor flask at 55° C. for 10 min. Cooled to ambient temperature. Transferred the mass into a clean reactor, rinse the flask with Acetonitrile (1.0 L; 1.0-1.2 vol wrt Int 01) and add rinse into reactor. Added water (1 L; 1.0-1.2 vol wrt Int-01) in to reactor with stirring. Stirred the resulting slurry for 15 min. Added water (5.3 L; 5.0-5.5 Vol wrt Int-01) over 15 min. Stirred the above mass at ambient temperature for 15 min. Unload the mass into a container, rinsed the reactor with water (1 L; 1.0-1.2 vol wrt Int-01), and collected the rinse in same container. Filtered the solid. Rinsed the container with water (1 L; 1.0-1.2 vol wrt Int-01), filtered the rinse. Washed filter cake with water (3.3 L; 3.0-3.5 Vol wrt Int-01). Suck dried for 2 h, then dried at 55° C. in VTD for 15 h. Unload the material. (LOD should be less than 1%). Wt: 1533 g (85.9% yield). Description (color and appearance): Off White crystalline solid. HPLC RT Time 4.897 min Under following conditions: Detector: 210 nm; Injection volume 5.00 μL; Run Time 15 min; Column. YMC UltraHT Pro C18 (50 mm×3.0 mm), 2.0μ; Mobile Phase A—0.05% TFA in MillQ Water; Mobile Phase B—0.05% TFA in Acetonitrile; Flow: 1.0 mL/min; Column Oven—40° C.; Time (min)—0 05 10 12 15; B Conc.—10 90 90 10 10. NMR: (1H NMR, 400 MHz, dmso-d6) δ 7.58 (t, 8.8 Hz, 1H), 6.89 (m, 1H), 3.87 (s, 3H).

reactant | 4-Chloro-3-fluoroanisole | 1000 g | ClC1=C(C=C(C=C1)OC)F | C7H6ClFO
reactant | n-Butyl Lithium | C(CCC)[Li]
reactant | Iodine | II | I2
reactant | Iodine | 2.405 kg | II | I2
solvent | Tetrahydrofuran | 2.4 L | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 8.35 L | O1CCCC1 | C4H8O
product | 1-chloro-2-fluoro-3-iodo-4-methoxybenzene | 85.9% yield | ClC1=C(C(=C(C=C1)OC)I)F | C7H5ClFIO
